US06140503
To a flask containing a mixture of 4-bromobenzophenone (1.31 g, 5.0 mmol). PdCl2 (PPh3)2 (70 mg. 0.10 mmol), and CuI (10 mg, 0.050 mmol) was added Et2NH (50 mL) and trimethylsilyl-acetylene (0.85 mL, 6.0 mmol) under a nitrogen atmosphere. The mixture was stirred at room temperature for 5 h. The solvent was removed under vacuum, and the residue was extracted with CH2Cl2 /H2O. The organic layer was collected, dried over MgSO4, filtered through Al2O3, and pumped dry. The residue was recrystallized from CH2Cl2 /hexane to afford pale brown crystalline 4-(trimethylsilylethynyl)benzophenone in 93% yield (1.30 g). 1H NMR (300 MHz, C6D6, 25° C., TMS): δ=0.25 (s, 9 H, CH3) 7.44-7.74 (m 9 H, Ph and C6H4); MS (EI) : m/e 278 (M+ --CH3) To a Et2O solution (100 mL) of 4-(trimethylsilylethynyl)benzophenone (1.39 g, 5.0 mmol) prechilled to -30° C. was slowly added a solution of phenyllithium (3.33 mL, 6.0 mmol, 1.8 M in cyclohexane-ether). The solution was slowly warmed to room temperature and stirred for 4 hours. 1 mL of H2O was added and the solution was stirred for 30 minutes. Additional H2O (>200 mL) was added and the organic layer was collected, dried over MgSO4, filtered through Al2O3, and pumped dry. The residue was chromatographed using CH2Cl2 /hexane (2:1) as eluent to afford (4-ethynylphenyl)-diphenylmethanol as a pale yellow oil in 81% yield (1.24 g).

reactant | 4-bromobenzophenone | 5.0 mmol, 1.31 g | BrC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H9BrO
reactant | trimethylsilyl-acetylene | 6.0 mmol, 0.85 mL | C[Si](C)(C)C#C | C5H10Si
catalyst | CuI | 0.050 mmol, 10 mg | [Cu]I
solvent | Et2NH | 50 mL | N(CC)CC | C4H11N
product | 4-(trimethylsilylethynyl)benzophenone | 93% yield | C[Si](C)(C)C#CC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C18H18OSi
